US04895865
Step 3: Preparation of 2-propoxy benzylcyanide
A 2 liter flask was charged with 367 grams (1.90 moles, 1.0 ec.) of crude 2-propoxybenzyl chloride in 700 ml of DMSO. The reaction is cooled by a water bath and 102 grams of sodium cyanide (2.09 moles, 1.1 eq.) was added and allowed to warm to 50° C. After the exotherm was complete, the reaction was stirred at room temperature overnight then worked up with water, dilute acid and ether. Removal of the solvent was followed by distillation (120°-150° C. at 1 mm) and gave 180 grams (54% Yield) of a light yellow oil.

reactant | 2-propoxybenzyl chloride | 1.90 moles, 367 grams | C(CC)OC1=C(CCl)C=CC=C1 | C10H13ClO
reactant | sodium cyanide | 2.09 moles, 102 grams, 1.1 eq. | [C-]#N.[Na+]
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | DMSO | 700 ml | CS(=O)C | C2H6OS
product | 2-propoxy benzylcyanide | 180 grams, 54% Yield | C(CC)OC1=C(CC#N)C=CC=C1 | C11H13NO
